US04404214
1.49 g of 3-methyl-2-pyridinecarboxylic acid, 1.8 g of N,N'-carbonyldiimidazole and 1.2 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and ethanol, whereby 0.2 g of N-(5-tetrazolyl)-3-methyl-2-pyridinecarboxamide is obtained.

reactant | 3-methyl-2-pyridinecarboxylic acid | 1.49 g | CC=1C(=NC=CC1)C(=O)O | C7H7NO2
reactant | 5-aminotetrazole | 1.2 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-3-methyl-2-pyridinecarboxamide | 0.2 g | N1N=NN=C1NC(=O)C1=NC=CC=C1C | C8H8N6O
